US04668697
Step A: Preparation of 5-(2-hydroxyethyl)benzo[b]thiophene
To a flame dried flask under N2 was added magnesium turnings (6 g, 0.25 mol) and THF (100 ml). The mixture was heated at reflux and a solution of methyl iodide (7.2 ml, d=2.28, 0.116 mol), and 5-bromobenzo[b]thiophene (24.4 g, 0.114 mol) in THF (50 ml) were added dropwise. The mixture was heated at reflux for 5 hours, then cooled to 0°-4° C. and a solution of ethylene oxide (15 g, 0.33 mol) in THF (20 ml) was added dropwise. After the addition, the reaction mixture was allowed to stir at room temperature overnight. The suspension was then cooled and a solution of 3N HCl (75 ml) was added dropwise. The aqueous layer was extracted with ethyl acetate (3X) and the organic layer was backwashed with saturated Na2CO3, dried, filtered and concentrated to dryness. The residue was chromatographed on silica gel and the product was eluted with 30% ethyl acetate/hexane to yield 9.3 g (48%) of product, m.p. 56°-57° C.

reactant | magnesium | 0.25 mol, 6 g | [Mg] | Mg
reactant | methyl iodide | 0.116 mol, 7.2 ml | CI | CH3I
reactant | 5-bromobenzo[b]thiophene | 0.114 mol, 24.4 g | BrC1=CC2=C(SC=C2)C=C1 | C8H5BrS
reactant | ethylene oxide | 0.33 mol, 15 g | C1CO1 | C2H4O
reactant | HCl | 3N, 75 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-(2-hydroxyethyl)benzo[b]thiophene | 9.3 g, 48% | OCCC1=CC2=C(SC=C2)C=C1 | C10H10OS
